US08124760B2
Preparation of 7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-5-((2,2,2-trifluoroethoxy)methyl)-[1,2,4]triazolo[1,5-a]pyrimidine (compound No. 63)
230 mg of 2,2,2-trifluoroethanol was added to a tetrahydrofuran (dehydrated) 8 mL solution of 33 mg of 60% sodium hydride, followed by stirring for 5 minutes, and 300 mg of 5-bromomethyl-7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine was added at room temperature, followed by stirring for 5 minutes. After completion of the reaction, 1N hydrochloric acid was added to make it acidic, followed by extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1) to obtain 97 mg of the desired product.

reactant | 2,2,2-trifluoroethanol | 230 mg | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 33 mg | [H-].[Na+]
reactant | 5-bromomethyl-7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | 300 mg | BrCC1=NC=2N(C(=C1)C1=NC=C(C=C1Cl)C(F)(F)F)N=CN2 | C12H6BrClF3N5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-5-((2,2,2-trifluoroethoxy)methyl)-[1,2,4]triazolo[1,5-a]pyrimidine | 97 mg | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=NC=2N1N=CN2)COCC(F)(F)F | C14H8ClF6N5O
